US07888347B2
2-Phenyl-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (D46)
A solution of 2-(4-bromophenyl)-6-(phenylmethyl)-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (may be prepared as described in Description 14) (49 mg, 0.13 mmol) in ethanol (5 ml) with palladium (10% Pd/C Paste) as a catalyst (10 mg) was stirred under an atmosphere of hydrogen overnight. The next day, the resulting mixture was filtered through celite and to afford the title compound which may be used without further purification (D46). MS (ES+) m/e 214 [M+H]+

reactant | 2-(4-bromophenyl)-6-(phenylmethyl)-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | 0.13 mmol, 49 mg | BrC1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)CC1=CC=CC=C1 | C20H20BrN3
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 2-Phenyl-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | C1(=CC=CC=C1)N1N=C2CCNCCC2=C1 | C13H15N3
